US07419979B2
6-[4-({4-[(5-Chloro-1H-indol-2-yl)sulphonyl]piperazin-1-yl}carbonyl)phenyl]-pyridazin-3-ol (see WO 99/57113, 0.054 gram, 0.11 mmol), 0.016 gram of anhydrous potassium carbonate (0.11 mmol, 1.0 eq.) and 0.02 gram of 1-bromo-2-(2-methoxy-ethoxy)ethane (0.11 mmol, 1.0 eq.) were mixed in 1.5 mL of dry N,N-dimethylform-amide. The mixture was treated with microwave at 150° C. for 1 hour. Without any work-up, purification was performed on preparative HPLC, which gave 0.023 gram of 6-{4-[4-(5-chloro-1H-indole-2-sulphonyl)-piperazine-1-carbonyl]-phenyl}-2-[2-(2-methoxy-ethoxy)-ethyl]-2H-pyridazin-3-one (yield 36%).

reactant | 6-[4-({4-[(5-Chloro-1H-indol-2-yl)sulphonyl]piperazin-1-yl}carbonyl)phenyl]-pyridazin-3-ol | 0.11 mmol, 0.054 gram | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C1=CC=C(N=N1)O | C23H20ClN5O4S
reactant | potassium carbonate | 0.11 mmol, 0.016 gram, 1.0 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-(2-methoxy-ethoxy)ethane | 0.11 mmol, 0.02 gram, 1.0 eq. | BrCCOCCOC | C5H11BrO2
solvent | N,N-dimethylform-amide | 1.5 mL | CN(C=O)C | C3H7NO
product | 6-{4-[4-(5-chloro-1H-indole-2-sulphonyl)-piperazine-1-carbonyl]-phenyl}-2-[2-(2-methoxy-ethoxy)-ethyl]-2H-pyridazin-3-one | 0.023 gram, yield 36% | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C=1C=CC(N(N1)CCOCCOC)=O | C28H30ClN5O6S
